US08242133B2
To a mixture of 0.51 g of 3-fluoro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide, 5 ml of tetrahydrofuran and 0.53 g of triphenylphosphine, 0.89 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. The reaction mixture was stirred while heating at 50° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.46 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 25”).

reactant | 3-fluoro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide | 0.51 g | FC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C=CN=C1 | C13H8F4N2O2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 0.89 g | C1(=CC=CC=C1)C | C7H8
product | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.46 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
